US04436748
A suspension of 3.2 g of ethyl[ (3,4-dichloro-6,7,8,9-tetrahydro dibenzothien-2-yl)oxy]acetate in 30 ml of 95% ethanol and 300 ml of 20% sodium hydroxide solution is stirred at reflux for 2 hours. The mixture is cooled, acidified with conc. hydrochloric acid and the resultant suspension is stirred in the cold for 30 minutes before filtration. The air dried product is recrystallized from 70 or 95% ethanol to give 2.41 g of [(3,4-dichloro-6,7,8,9-tetrahydodibenzothien-2-yl)oxy]acetic acid as fine needles, mp 257°-259°.

reactant | ethyl[ (3,4-dichloro-6,7,8,9-tetrahydro dibenzothien-2-yl)oxy]acetate | 3.2 g | C(C)OC(COC1=CC2=C(SC3=C2CCCC3)C(=C1Cl)Cl)=O | C16H16Cl2O3S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 300 ml | [OH-].[Na+]
product | [(3,4-dichloro-6,7,8,9-tetrahydodibenzothien-2-yl)oxy]acetic acid | 2.41 g | ClC=1C(=CC2=C(SC3=C2CCCC3)C1Cl)OCC(=O)O | C14H12Cl2O3S
